US08058299B2
To a solution of 2-methyl-2-(5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-propionic acid ethyl ester (321 mg, 1.0 mmol) in tetrahydrofuran (2 mL) and methanol (6 mL) was added sodium hydroxide solution (1N, 2 mL). The mixture was heated in a microwave at 140° C. for 1.5 hr. The mixture was evaporated and the residue was dissolved in hot methanol and water. The clear solution was then acidified with 1N hydrochloric acid (2.5 mL). The resulting pale yellow precipitate was filtered and dried to give 2-methyl-2-(5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-propionic acid (210 mg). LC-MS calcd. for C14H19N3O4 (m/e) 293.1, obsd 294.1

reactant | 2-methyl-2-(5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-propionic acid ethyl ester | 1.0 mmol, 321 mg | C(C)OC(C(C)(C1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-])C)=O | C16H23N3O4
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
product | 2-methyl-2-(5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-propionic acid | 210 mg | CC(C(=O)O)(C)C1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-] | C14H19N3O4
